US09056874B2
7-Bromo-4-(bromoethynyl)-5-methyl-1-tosyl-1H-indole
To a suspension of 7-bromo-5-methyl-1-tosyl-4-((trimethylsilyl)ethynyl)-1H-indole (70 mg, 0.152 mmol) and AgNO3 (7.75 mg, 0.046 mmol) in acetone (0.8 mL) at 0° C. was added a solution of NBS (38 mg, 0.213 mmol) in acetone (0.8 mL) and the mixture was warmed to room temperature. After stirring overnight the reaction was purified directly by flash chromatography (0-40% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.03 (d, J=3.79 Hz, 1H) 7.72 (d, J=8.59 Hz, 2H) 7.37-7.48 (m, 3H) 6.91 (d, J=3.79 Hz, 1H) 2.38 (s, 3H) 2.37 (s, 3H).

reactant | 7-bromo-5-methyl-1-tosyl-4-((trimethylsilyl)ethynyl)-1H-indole | 0.152 mmol, 70 mg | BrC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)C#C[Si](C)(C)C)C | C21H22BrNO2SSi
reactant | NBS | 0.213 mmol, 38 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetone | 0.8 mL | CC(=O)C | C3H6O
solvent | acetone | 0.8 mL | CC(=O)C | C3H6O
catalyst | AgNO3 | 0.046 mmol, 7.75 mg | [N+](=O)([O-])[O-].[Ag+]
product | 7-Bromo-4-(bromoethynyl)-5-methyl-1-tosyl-1H-indole | BrC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)C#CBr)C | C18H13Br2NO2S
